US07268135B2
N-[(4′-{[(1-benzofuran-2-ylamino)carbonyl]oxy}-1,1′-biphenyl-4-yl)sulfonyl]-D-valine
2-(4′-Hydroxy-biphenyl-4-sulfonylamino)-3-methyl-butyric acid (314 mg, 0.9 mmol) dissolved in methylene chloride (10 mL) and diethyl ether (20 mL) was added with benzofuran isocyanate (143 mg, 0.9 mmol, 1 equiv) and triethyl amine (363 mg, 3.6 mmol, 4 equiv). The mixture was stirred at room temperature overnight. Solid precipitated from reaction mixture was collected by filtration followed by column chromatography (silica gel, 5% MeOH/CH2Cl2). 76 mg of white solid was obtained in 16% yield.

reactant | 2-(4′-Hydroxy-biphenyl-4-sulfonylamino)-3-methyl-butyric acid | 0.9 mmol, 314 mg | OC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)C(C)C | C17H19NO5S
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
reactant | benzofuran isocyanate | 0.9 mmol, 143 mg, 1 equiv | [N-]=C=O.O1C=CC2=C1C=CC=C2
reactant | triethyl amine | 3.6 mmol, 363 mg, 4 equiv | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[(4′-{[(1-benzofuran-2-ylamino)carbonyl]oxy}-1,1′-biphenyl-4-yl)sulfonyl]-D-valine | 76 mg, 16% yield | O1C(=CC2=C1C=CC=C2)NC(=O)OC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@H](C(C)C)C(=O)O | C26H24N2O7S
